US07241791B2
4-[3-(2,4-dihydroxyphenyl)-6-hydroxy-1H-indazol-1-yl]benzonitrile
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.041 g, 0.5 mmol) and 4-cyanophenylhydrazine hydrochloride (0.085 g, 0.5 mmol) to give 0.012 g of product as a yellow solid MS (APCI) m/z 343 (M−.).

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 0.5 mmol, 0.041 g | C(C)(=O)[O-].[Na+]
reactant | 4-cyanophenylhydrazine hydrochloride | 0.5 mmol, 0.085 g | Cl.C(#N)C1=CC=C(C=C1)NN
product | 4-[3-(2,4-dihydroxyphenyl)-6-hydroxy-1H-indazol-1-yl]benzonitrile | 0.012 g | OC1=C(C=CC(=C1)O)C1=NN(C2=CC(=CC=C12)O)C1=CC=C(C#N)C=C1 | C20H13N3O3
